Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Sulfamethoxazole / Penicillins
 
Attending: ___.
 
Chief Complaint:
arrest of descent, gHTN, incisional cellulitis with wound 
abscess
 
Major Surgical or Invasive Procedure:
primary low transverse cesarean section

 
History of Present Illness:
Patient is a ___ year-old G3P0 with EDC = ___ (EGA = 37w1d on
___ with elevated blood pressures in the office as
high as 140/70 over the past week.  Repeat BP in OB triage =
142/70, 141/72, 139/85.  PIH labs on ___ showed:
CBC 15.6 > 10.6 / 30.3 < 312
ALT 21
Cr 0.5
Uric Acid 5.0 
UP:C 0.1

She currently denies headache, visual changes,
epigastric or RUQ pain. Denies ctx, VB, LOF. +FM

 
Past Medical History:
MEDICAL HISTORY
Allergies  (Last Verified ___ by ___:
Penicillins                                                      

Sulfamethoxazole                                                 

--------------- --------------- --------------- ---------------
Active Medication list as of ___:
 
Medications - Prescription
ALBUTEROL SULFATE [PROAIR HFA] - ProAir HFA 90 mcg/actuation
aerosol inhaler. 2 puffs every four (4) hours PRN
BUDESONIDE-FORMOTEROL [SYMBICORT] - Symbicort 160 mcg-4.5
mcg/actuation HFA aerosol inhaler. 2 puffs inh twice a day
PNV WITH CALCIUM ___ [PRENATAL VITAMINS LOW IRON] -
Dosage uncertain -  (Prescribed by Other Provider)
 
Medications - OTC
DOCUSATE SODIUM - docusate sodium 100 mg capsule. 1 capsule(s) 
by
mouth once per day, as needed, for constipation
--------------- --------------- --------------- ---------------

Problems  (Last Verified ___ by ___, MD):
ASTHMA, EXTRINSIC W/ ACUTE EXACERBATION                         
493.02                                                          

ECZEMATOUS DERMATITIS                                           

H/O TOBACCO USE                                                 
305.1                                                           

Surgical History  (Last Verified ___ by ___, 
MD):
Surgical History updated, no known surgical history.            

Family History  (Last Verified ___ by ___, MD):
Relative  Status    Age Problem              Comments           
Other                   ASTHMA               V17.5              
                        F/H GI MALIGNANCY    V16.0              

 
Social History:
___
Family History:
NC
 
Physical Exam:
VSS
Gen: NAD
Lungs: CTA
CV: RRR
Abd: 2cm opening on right side of incision with packing, 
erythema improved from prior, no pus
Ext: 1+ pitting edema bilaterally with no calf tenderness
 
Brief Hospital Course:
The patient is a ___ G3, P0 at 37 weeks
4 days admitted for induction of labor due to gestational
hypertension.  After a prolonged induction, the patient
progressed to fully dilated and +2 station.  However, after 5
hours fully dilated and ___ hours pushing, there was no
descent of the fetal head and significant caput was noted.  The
patient was recommended to undergo delivery via cesarean
section.

She experienced a PPH with EBL 1200cc from cervical extension, 
but remained stable postpartum. In terms of her gestational 
hypertension, she had normal labs. She was started on labetalol 
200mg BID on ___, which was increased to 300mg BID on 
___ for elevated pressures. During her postpartum course she 
developed an incisional cellulitis with wound abscess. She was 
noted to have erythema and induration on right side of incision 
and extending to mons. She was started on IV gent/clinda -> PO 
clindamycin started ___ ___, 10d course. She incision was 
opened at bedside ___ and she underwent BID wet to dry 
dressing changes. She had a wound culture with mixed flora, a 
negative urine culture, and blood cultures with no growth.

Patient also experienced bilateral lower extremity edema during 
her stay that she found very bothersome. She received Lasix 20mg 
PO x1, with improvement of symptoms. She was also maintained on 
Lovenox 40mg daily.

She was discharged on ___ in stable condition with plan for 
outpatient ___ for BID dressing changes and blood pressure 
monitoring.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Prenatal Vitamins 1 TAB PO DAILY 
2. Docusate Sodium 100 mg PO DAILY:PRN constipation 
3. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation 2 puffs bid 
4. ProAir HFA (albuterol sulfate) 90 mcg/actuation 2 puffs 
Q4H:PRN wheezing 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN asthma 
2. Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*40 Capsule Refills:*1
3. Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*30 Tablet Refills:*0
4. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
5. Clindamycin 450 mg PO Q6H Duration: 10 Days 
RX *clindamycin HCl 150 mg 3 capsule(s) by mouth every 6 hrs 
Disp #*108 Capsule Refills:*0
6. Ferrous Sulfate 325 mg PO BID 
RX *ferrous sulfate 140 mg (45 mg iron) 1 tablet(s) by mouth 
twice a day Disp #*60 Tablet Refills:*1
7. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain  
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth q4hrs 
Disp #*30 Tablet Refills:*0
8. Labetalol 300 mg PO BID 
RX *labetalol 300 mg 1 tablet(s) by mouth twice a day Disp #*40 
Tablet Refills:*0
9. Prenatal Vitamins 1 TAB PO DAILY 
10. ProAir HFA (albuterol sulfate) 90 mcg/actuation 2 PUFFS 
Q4H:PRN wheezing 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
primary low transverse cesarean section
gestational hypertension
asthma
arrest of descent
endometritis, cellulitis, wound infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
pelvic rest x 6 weeks until postpartum visit
no heavy lifting or driving x 2 weeks
keep incision clean and dry
 
Followup Instructions:
___